US20010009915A1
Step a: Ethyl 4-(2-hydroxyphenyl)-1-piperazinylcarboxylate
15 ml (156 mmol) of ethyl chloroformate are added to a solution of 18 g (100 mmol) of 2-(1-piperazinyl)phenol in 250 ml of dichloromethane. After stirring at ambient temperature for one hour, the mixture is hydrolysed and then extracted with dichloromethane. The organic phase is washed with a 1N hydrochloric acid solution and dried. Following concentration, the residue obtained is recrystallised from ether to yield the expected product.

reactant | ethyl chloroformate | 156 mmol, 15 ml | ClC(=O)OCC | C3H5ClO2
reactant | 2-(1-piperazinyl)phenol | 100 mmol, 18 g | N1(CCNCC1)C1=C(C=CC=C1)O | C10H14N2O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | Ethyl 4-(2-hydroxyphenyl)-1-piperazinylcarboxylate | OC1=C(C=CC=C1)N1CCN(CC1)C(=O)OCC | C13H18N2O3
